US04330366
400 ml of dry dioxane and 55 g of sodium borohydride are initially introduced into a 2 l three-necked flask with a stirrer, reflux condenser and dropping funnel at 20° C., and 247 g of 3,5-dichloro-2,4,6-trifluorobenzoyl fluoride, dissolved in 250 ml of dry dioxane, are then added dropwise at this temperature. When the addition has ended, the mixture is stirred at 20° C. for a further 2 hours and then warmed to the reflux temperature for 1 hour. The solution is cooled to room temperature, a total of 50 ml of water are then added dropwise and the mixture is subsequently rendered acid with dilute hydrochloric acid. The reaction mixture is extracted three times with methylene chloride and, after drying the organic phase over sodium sulphate, the solvent is distilled off. 196.5 g (85% of the theoretical yield) of 3,5-dichloro-2,4,6-trifluorobenzyl alcohol of boiling point 134° to 135° C./20 mbars and melting point 67° to 68° C. are obtained from the residue by further distillation.

reactant | sodium borohydride | 55 g | [BH4-].[Na+]
reactant | 3,5-dichloro-2,4,6-trifluorobenzoyl fluoride | 247 g | ClC=1C(=C(C(=O)F)C(=C(C1F)Cl)F)F | C7Cl2F4O
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 3,5-dichloro-2,4,6-trifluorobenzyl alcohol | ClC=1C(=C(CO)C(=C(C1F)Cl)F)F | C7H3Cl2F3O
